US05360577
A solution of 2 g of (S)-2-(4-bromophenyl)-4-isopropyl-2-oxazoline in 20 ml of absolute tetrahydrofuran is treated drop-wise with 5 ml of 1.6M butyllithium in hexane at -78° C. and while gassing with nitrogen, stirred at this temperature for 2 hours, then treated dropwise with 2 ml of absolute N,N-dimethyl-formamide and then warmed slowly to room temperature. The reaction mixture is poured into 100 ml of water and extracted three times with 50 ml of diethyl ether each time. The combined organic phases are washed twice with 100 ml of saturated sodium chloride solution each time, dried over magnesium sulphate, filtered and then concentrated. Chromatography of the residue on silica gel with hexane/ethyl acetate (vol. 9:1) yields 0.8 g of pure (S)-2-(4-formylphenyl)-4-isopropyl-2-oxazoline.

reactant | (S)-2-(4-bromophenyl)-4-isopropyl-2-oxazoline | 2 g | BrC1=CC=C(C=C1)C=1OC[C@@H](N1)C(C)C | C12H14BrNO
reactant | butyllithium | 1.6M, 5 ml | C(CCC)[Li]
reactant | N,N-dimethyl-formamide | 2 ml | CN(C=O)C | C3H7NO
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | (S)-2-(4-formylphenyl)-4-isopropyl-2-oxazoline | 0.8 g | C(=O)C1=CC=C(C=C1)C=1OC[C@@H](N1)C(C)C | C13H15NO2
